US05128340
A solution of thiourea (70,4 g) in water (265 ml) was added dropwise to a stirred solution of 3-bromoacetylpyridine hydrobromide (251,6 g) in water (1 1) over 15 minutes. The solution, which turned yellow and became quite hot, was allowed to stand for one hour, and was then basified by addition of aqueous ammonia. The resulting solid was filtered off, washed with water, and dried in vacuo at 65° C. to give 4-(pyridin-3-yl)-thiazol-2-amine, (155 g) Mp 200° C.

reactant | thiourea | 70,4 g | NC(=S)N | CH4N2S
reactant | 3-bromoacetylpyridine hydrobromide | 251,6 g | Br.BrCC(=O)C=1C=NC=CC1
reactant | ammonia | N | H3N
solvent | water | 265 ml | O | H2O
product | 4-(pyridin-3-yl)-thiazol-2-amine | 155 g | N1=CC(=CC=C1)C=1N=C(SC1)N | C8H7N3S
